US04325955
3-Diphenylmethyl-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol hydrochloride
A solution of 3.0 g. of 3-diphenylmethyl-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol in 30 ml. of acetone is treated with 4 ml. of 3 N ethanolic hydrochloric acid. The resulting solid is collected by filtration, giving the desired product, m.p. 205° C. (dec.).

reactant | 3-diphenylmethyl-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol | C1(=CC=CC=C1)C(C1(CSC=2N1CCCCN2)O)C2=CC=CC=C2 | C20H22N2OS
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 3-Diphenylmethyl-2,3,5,6,7,8-hexahydrothiazolo[3,2-a][1,3]diazepin-3-ol hydrochloride | Cl.C1(=CC=CC=C1)C(C1(CSC=2N1CCCCN2)O)C2=CC=CC=C2 | InChI=1S/C20H22N2OS.ClH/c23-20(15-24-19-21-13-7-8-14-22(19)20)18(16-9-3-1-4-10-16)17-11-5-2-6-12-17;/h1-6,9-12,18,23H,7-8,13-15H2;1H
